US07592358B2
19.1a. 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine
A suspension of 1.55 g (52.50 mmol) of 4-iodophenol, 8.50 g (52.57 mmol) of 1-(2-chloroethyl)-4-methylpiperidine, and 14.51 g (105.00 mmol) of potassium carbonate in 200 mL of DMF was stirred for 6 hours at 80° C., the reaction mixture was cooled to RT, filtered, and the filtrate was evaporated down in vacuo. The residue was taken up in EtOAc, and the organic phase was washed with 2M aqueous NaOH solution, dried over magnesium sulfate, and evaporated down in vacuo. The crude product was purified by column chromatography (silica gel, gradient EtOAc/MeOH/sat. aqueous ammonia 100:0:0→95:5:0.5). Yield: 12.90 g (71% of theoretical); C14H20INO (M=345.219); calc.: molpeak (M+H)+: 346; found: molpeak (M+H)+: 346; Rf value: 0.30 (silica gel, DCM/MeOH/sat. aqueous ammonia 95:5:0.5).

reactant | 4-iodophenol | 52.50 mmol, 1.55 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 1-(2-chloroethyl)-4-methylpiperidine | 52.57 mmol, 8.50 g | ClCCN1CCC(CC1)C | C8H16ClN
reactant | potassium carbonate | 105.00 mmol, 14.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1-[2-(4-iodophenoxy)ethyl]-4-methylpiperidine | IC1=CC=C(OCCN2CCC(CC2)C)C=C1 | C14H20INO
